US07276612B2
To an ice-cooled solution of 5-(2-pyrrolidin-1-ylethoxy)benzofuran-2-carboxylic acid methyl ester (960 mg, 3.3 mmol) anhydrous ethylene glycol dimethyl ether (10 ml) was added dropwise degassed aqueous lithium hydroxide solution (2.0 ml, 2.0M). After stirring at room temperature for 4 h, the solution was cooled down and the pH was adjusted to 2 with 4.0 M HCl in dioxane. A gummy tan precipitate formed. The solvent was removed and the gummy residue was frozen and lyophilized. The tan colored solid was dissolved in boiling 2-propanol (90 ml), the solution was filtered hot and then cooled to give 5-(2-pyrrolidin-1-yl-ethoxy)-benzofuran-2-carboxylic acid as beige colored needles (528 mg). Additional 153 mg was obtained from the mother liquor.

reactant | 5-(2-pyrrolidin-1-ylethoxy)benzofuran-2-carboxylic acid methyl ester | 3.3 mmol, 10 ml, 960 mg | COC(=O)C=1OC2=C(C1)C=C(C=C2)OCCN2CCCC2 | C16H19NO4
reactant | lithium hydroxide | 2.0 ml | [OH-].[Li+]
reactant | HCl | 4.0 M | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-(2-pyrrolidin-1-yl-ethoxy)-benzofuran-2-carboxylic acid | 528 mg | N1(CCCC1)CCOC=1C=CC2=C(C=C(O2)C(=O)O)C1 | C15H17NO4
